US06046201
12-Iodododecylamine hydrochloride
To a solution of 0.33 g of tert-butyl N-(12-iodododecyl)carbamate in 25 ml of ethyl acetate was added 2.6 ml of hydrochloric acid and the mixture was stirred for 0.5 hour. The reaction solution was distilled off under reduced pressure. The residue was dissolved in chloroform, washed with water and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. Crystallization from ethyl acetate and hexane afforded 0.17 g of the title compound.

reactant | tert-butyl N-(12-iodododecyl)carbamate | 0.33 g | ICCCCCCCCCCCCNC(OC(C)(C)C)=O | C17H34INO2
reactant | hydrochloric acid | 2.6 ml | Cl | ClH
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 12-Iodododecylamine hydrochloride | 0.17 g | Cl.ICCCCCCCCCCCCN | InChI=1S/C12H26IN.ClH/c13-11-9-7-5-3-1-2-4-6-8-10-12-14;/h1-12,14H2;1H
